### PR TITLE
feat(IK): prove some theorems about sigmaR

### PR DESCRIPTION
**Pull request by arajasek**
This PR proves a few theorems about the new `sigmaR`, based on similar statements about the Natural function-defined `sigma`. This PR is mostly intended to demonstrate what these theorems look like, in particular, the added hypotheses needed to make them work.

I'm opening this as a draft PR so we can discuss it, I'm not sure whether it should be merged.

### CODE REVIEW

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 1]
```diff
@@ -319,6 +319,49 @@ lemma sigmaR_natCast (k n : ℕ) :
   unfold sigmaR sigma
   simp
 
+theorem sigmaR_apply {R : Type*} {k : R} [Semiring R] [HPow R R R] (n : ℕ) :
+  σᴿ k n = ∑ d ∈ n.divisors, (d : R) ^ k := by
+  rfl
+
+@[simp]
+theorem sigmaR_apply_zero {R : Type*} {k : R} [Semiring R] [HPow R R R] : σᴿ k 0 = 0 := by rfl
```
Comment (arajasek) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:327]: Note the weaker statement than `theorem sigma_eq_zero {k n : ℕ} : σ k n = 0 ↔ n = 0`

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 2]
```diff
@@ -319,6 +319,49 @@ lemma sigmaR_natCast (k n : ℕ) :
...
+theorem zeta_mul_powR_eq_sigmaR {R : Type*} {k : R} [CommSemiring R] [HPow R R R]
+    (h : (0 : R) ^ k = 0) :
+    (ζ : ArithmeticFunction R) * powR k h = σᴿ k := by
+  ext
+  rw [sigmaR_apply, coe_zeta_mul_apply]
+  rfl
+
+@[arith_mult]
+theorem isMultiplicative_sigmaR {R : Type*} {k : R} [CommSemiring R] [HPow R R R]
+    (h0 : (0 : R) ^ k = 0) (h1 : (1 : R) ^ k = 1) (hmul : ∀ x y : R, (x * y) ^ k = x ^ k * y ^ k) :
```
Comment (arajasek) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:356]: Note the string of hypotheses.
